data/mechanisms/records/IMS8-EQ8.85b.json
{"mechanism_id": "IMS8-EQ8.85b", "species": [{"species_id": "protonated_methyl_isopropyl_ether", "mapped_smiles": "[CH3:3][CH:1]([CH2:2][1H:7])[O+:4]([1H:6])[CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "propene", "mapped_smiles": "[CH2:2]=[CH:1][CH3:3]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "protonated_methanol", "mapped_smiles": "[O+:4]([1H:6])([1H:7])[CH3:5]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["protonated_methyl_isopropyl_ether"]}, {"state_id": "state_products", "species_ids": ["propene", "protonated_methanol"]}], "steps": [{"step_id": "step_proton_transfer_elimination", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 7]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 2}, {"source": {"type": "lone_pair", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [4, 7]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_85b", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_proton_transfer_elimination", "support_type": "textbook_proposed", "locator": {"page": 199, "equation": "8.85", "figure": null, "panel": "middle row, right-hand reaction arrow (60% channel)", "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.85, "curator_note": "Equation 8.85, LOWER-RIGHT reaction arrow: the drawn products are 'C3H6 + CH3OH2+' with '60%' printed underneath. NET REACTION ENCODED: protonated methyl isopropyl ether -> propene + protonated methanol, i.e. a 1,2-elimination in which the oxygen of the departing methanol takes the proton. MECHANISM (3 moves): <1> the C2-H7 sigma pair becomes the C1=C2 pi bond of propene; <2> the C1-O4 sigma pair drops onto the oxygen; <3> an oxygen lone pair captures the proton H7, giving CH3OH2+ (m/z 33.0335, curator-computed monoisotopic). The migrating hydrogen is written as an isotope-tagged explicit atom [1H:7] and the proton already on the oxygen as [1H:6], so both can carry atom maps. Book draws 0 arc(s): Equation 8.85 contains NO curved electron-pushing arrows at all - it is drawn with straight reaction/equilibrium arrows plus dashed 'partial bond' strokes that denote the loose bonds of the ion-neutral complexes. All three encoded moves are reconstructed for electron balance (not drawn on the page). DRAWN INTERMEDIATES DISCLOSED: the page reaches these products through TWO explicitly drawn non-covalent complexes that are not encoded as discrete species because partial bonds have no RDKit bond order - (i) the ion-neutral complex 'CH2(H)-CH(CH3)...O(+)(H)CH3' (dashed C...O, the labile methyl H drawn out), and (ii) the proton-bound complex '[CH2=CH-CH3 ... H(+) ... O(H)CH3]' in which the transferring proton is drawn between propene and methanol on two dotted lines with the '+' on that bridging H. The p.200 text explains the 60:40 split by the proton affinities PA(C3H6, CH3OH) = 7.8, 7.9 eV, i.e. the bridging proton is shared and the more basic partner keeps it. CONTEXT: the p.199 text introduces Equation 8.85 with 'In the absence of activating functional groups in EE ions, proton-exchange reactions can proceed in ion-molecule complexes (Equations 8.14, 8.85; Terlouw et al. 1986; Bowen 1991); demonstration of such pathways usually requires D-labeling. Here both the hydrogen lability and site receptivity' [continues on p.200] 'are determined by the relative proton affinities of the donor and acceptor sites: PA(C3H6, CH3OH) = 7.8, 7.9 eV. Note that the competitive dissociations of such a proton-bound isomer of (AB + H)+ produce AH+ and BH+, whose mass sum equals AB + 2.' The reacting ion is therefore the protonated molecule (AB+H)+ of methyl isopropyl ether, C4H11O+, curator-computed monoisotopic m/z 75.0804; the page prints no m/z for it. The two percentages printed on the page (40%, 60%) are the BRANCHING abundances of the two competing dissociation channels, not 70 eV EI relative intensities."}], "ms_context": {"ionization_method": "CI", "polarity": "positive", "adduct": "[M+H]+", "activation_method": "unspecified - the page names no ionization or activation experiment; the reacting ion is the protonated molecule (AB+H)+ of methyl isopropyl ether discussed in the p.199/200 text (Terlouw et al. 1986; Bowen 1991). ionization_method 'CI' is the curator's inference for how an (AB+H)+ ion is made, NOT a statement printed on the page", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 75.0804, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_CH3OH2", "species_id": "protonated_methanol", "step_id": "step_proton_transfer_elimination", "observed_mz": 33.0335, "relative_intensity": 0.6, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
